US06288096B1
1.7 g (10 mmole) 2-[4-(methylsulfanyl)phenyl]-1-ethanol, 5.24 g (20 mmole) triphenylphosphine and 5.05 g (20 mmole) 1,1-(azodicarbonyl)dipiperidine was added to a mixture of 2.47 g (20 mmole) 4-hydroxybenzaldehyde in 40 ml dichloromethane under argon atmosphere. Stirring at room temperature for 2 hours, (more dichloromethane was added after 20 minutes), gave a solid material that was removed by filtration. The filtrate was purified by chromatography on silica gel using dichloromethane as eluent to give 2.3 g (yield 84.4%) of 4-[2-(4-methylmercaptophenyl)ethoxy]benzaldehyde.

reactant | 2-[4-(methylsulfanyl)phenyl]-1-ethanol | 10 mmole, 1.7 g | CSC1=CC=C(C=C1)CCO | C9H12OS
reactant | triphenylphosphine | 20 mmole, 5.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,1-(azodicarbonyl)dipiperidine | 20 mmole, 5.05 g | C1CCN(CC1)C(=O)/N=N/C(=O)N2CCCCC2 | C12H20N4O2
reactant | 4-hydroxybenzaldehyde | 20 mmole, 2.47 g | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 4-[2-(4-methylmercaptophenyl)ethoxy]benzaldehyde | 2.3 g, yield 84.4% | CSC1=CC=C(C=C1)CCOC1=CC=C(C=O)C=C1 | C16H16O2S
